US05041455
A. 3-(4-octyloxy-1,2,5-thiadiazol-3-yl)pyridine
To a solution of sodium (350 mg, 15 mmol) in 1-octanol (10 ml) was added 3-(4-chloro-1,2,5-thiadiazol-3yl)pyridine (590 mg, 3 mmol). The mixture was stirred at 50° C. for 1 h and evaporated. The residue was dissolved in water and extracted with methylene chloride. The combined organic phases were dried and evaporated to give the title compound.

reactant | sodium | 15 mmol, 350 mg | [Na] | Na
reactant | 3-(4-chloro-1,2,5-thiadiazol-3yl)pyridine | 3 mmol, 590 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | 1-octanol | 10 ml | C(CCCCCCC)O | C8H18O
product | 3-(4-octyloxy-1,2,5-thiadiazol-3-yl)pyridine | C(CCCCCCC)OC=1C(=NSN1)C=1C=NC=CC1 | C15H21N3OS
